US07179823B1
A mixture of ethyl 3-[1-(4-benzyloxy-3-methoxybenzyl)-3-ethoxy-1H-pyrazol-4-yl]propionate (2.92 g), 5% palladium-carbon (6.00 g), ethanol (20 ml), and tetrahydrofuran (20 ml) was stirred at room temperature for one hour under a hydrogen atmosphere. After removal of the catalyst by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-ethoxy-1-(4-hydroxy-3-methoxybenzyl)-1H-pyrazol-4-yl]propionate (2.04 g, yield: 89%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 3-[1-(4-benzyloxy-3-methoxybenzyl)-3-ethoxy-1H-pyrazol-4-yl]propionate | 2.92 g | C(C1=CC=CC=C1)OC1=C(C=C(CN2N=C(C(=C2)CCC(=O)OCC)OCC)C=C1)OC | C25H30N2O5
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 6.00 g | [C].[Pd]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 3-[3-ethoxy-1-(4-hydroxy-3-methoxybenzyl)-1H-pyrazol-4-yl]propionate | 2.04 g, yield: 89% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=C(C=C1)O)OC | C18H24N2O5
